US08008279B2
1,5,6,7,8,9a-Hexahydro-furo[2,3-b:4,5-c′]dipyridine
Concentrated Sulfuric acid (1.0 mL, 18.8 mmol) was added to tert-butyl 4-oxo-3-(2-oxo-1,2-dihydropyridin-3-yl)piperidine-1-carboxylate (350 mg, 1.20 mmol). The resulting thick solution was stirred at room temperature overnight. The reaction was heated at 60° C. until reaction complete by LCMS. The reaction was diluted with 90% Acetonitrile 10% Water and solid potassium carbonate was added cautiously to neutral pH (Effervescence), the slurry was filtered and the filtrate evaporated, the resulting residue was used without further purification.

reactant | Sulfuric acid | 18.8 mmol, 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | tert-butyl 4-oxo-3-(2-oxo-1,2-dihydropyridin-3-yl)piperidine-1-carboxylate | 1.20 mmol, 350 mg | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C=1C(NC=CC1)=O | C15H20N2O4
solvent | Acetonitrile | C(C)#N | C2H3N
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1,5,6,7,8,9a-Hexahydro-furo[2,3-b:4,5-c′]dipyridine | N1C2C(=CC=C1)C=1CNCCC1O2 | C10H12N2O
